US07923568B2
To a suspension of 3-acetyl-7,8-dihydrocyclopenta[e]indazol-6(3H) -one (9.19 g, 42.9 mmol) in methanol (250 mL) was added 1N aqueous sodium hydroxide (55.6 mL, 55.6 mmol). The resulting brown solution was stirred at room temperature for 1 hour. The methanol was evaporated under vacuum and the residue was diluted with water (250 mL) and adjusted to pH 4 with 6N aqueous HCl. The resulting precipitate was isolated by filtration, washed thoroughly with water and dried under vacuum to give 7,8-dihydrocyclopenta[e]indazol-6(3H)-one as a yellow solid.

reactant | 3-acetyl-7,8-dihydrocyclopenta[e]indazol-6(3H) -one | 42.9 mmol, 9.19 g | C(C)(=O)N1N=CC=2C3=C(C=CC12)C(CC3)=O | C12H10N2O2
reactant | sodium hydroxide | 55.6 mmol, 1N, 55.6 mL | [OH-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
product | 7,8-dihydrocyclopenta[e]indazol-6(3H)-one | C1=NNC=2C=CC3=C(C12)CCC3=O | C10H8N2O
